US05552398
eq-Quinolizidin-2-ylmethyl-1-isobutylindole-3-carboxylate (E20)
eq-Quinolizidin-2-ylmethylindole-3-carboxylate (E9b) was alkylated with 1-bromo-2-methylpropane using the method in Example 18. The product was chromatographed on silica gel eluting initially with ether, then with ethyl acetate, to afford the title compound (E20) as a colourless oil. This was converted to its hydrochloride salt mp 174°-175° C. (acetone/ether).

reactant | Quinolizidin-2-ylmethylindole-3-carboxylate | C1C(CCN2CCCCC12)COC(=O)C1=CNC2=CC=CC=C12 | C19H24N2O2
reactant | 1-bromo-2-methylpropane | BrCC(C)C | C4H9Br
product | Quinolizidin-2-ylmethyl-1-isobutylindole-3-carboxylate | C1C(CCN2CCCCC12)COC(=O)C1=CN(C2=CC=CC=C12)CC(C)C | C23H32N2O2
